US06878728B1
N-{(2R,3S)-3-Amino-4-[4-(benzyloxy)phenyl]-2-hydroxybutyl}-N-(1-ethylpropoxy)-1,3-benzodioxole-5-sulfonamide
To an ice cold solution of tert-Butyl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(1-ethylpropoxy)amino]-1-[4-(benzyloxy)benzyl]-2-hydroxypropylcarbamate (1.5 g, 2.3 mmol) in dichloromethane (15 mL) was added trifluoroacetic acid (10 mL). After stirring at 5° C. for 3 h, the reaction was concentrated in vacuo, taken up in ethyl acetate (80 mL), washed with saturated sodium bicarbonate (2×50 mL), dried (magnesium sulfate) and concentrated in vacuo to afford the title compound (1.27 g, quant.) as an off-white foam. 1H NMR (DMSO-d6): δ 0.77 (6H, dt), 1.07-1.72 (4H, m), 1.82 (2H, br), 2.28 (1H, t), 2.58-3.05 (4H, m), 3.43-3.53 (1H, m), 3.95-4.03 (1H, m), 4.86 (1H, br s), 5.01 (2H, s), 6.16 (2H, s), 6,86 (2H, d), 7.03 (2H, d), 7.12-7.40 (8H, m);

reactant | tert-Butyl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(1-ethylpropoxy)amino]-1-[4-(benzyloxy)benzyl]-2-hydroxypropylcarbamate | 2.3 mmol, 1.5 g | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCC2=CC=CC=C2)NC(OC(C)(C)C)=O)O)OC(CC)CC | C34H44N2O9S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-{(2R,3S)-3-Amino-4-[4-(benzyloxy)phenyl]-2-hydroxybutyl}-N-(1-ethylpropoxy)-1,3-benzodioxole-5-sulfonamide | 1.27 g | N[C@H]([C@@H](CN(S(=O)(=O)C1=CC2=C(OCO2)C=C1)OC(CC)CC)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H36N2O7S
